US05395824
Preparation of N-Acetyl-L-leucine-[1-(1,3-dithiolan-2-yl)]pentylamide
In 20 ml of methylene chloride was dissolved 1.8 g of N-acetyl-L-leucine-(1-formyl)pentylamide obtained in the same manner as in Example 16-(c), and 700 mg of 1,2-ethanedithiol and 1.5 ml of boron trifluoride ethyl etherate were added thereto. The mixture was allowed to react at room temperature for 12 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was purified by medium-pressure column chromatography on silica gel to obtain 1.7 g of the titled compound as a colorless crystal.

reactant | N-acetyl-L-leucine-(1-formyl)pentylamide | 1.8 g | C(=O)C(CCCC)NC([C@@H](NC(C)=O)CC(C)C)=O | C14H26N2O3
reactant | 1,2-ethanedithiol | 700 mg | C(CS)S | C2H6S2
reactant | boron trifluoride ethyl etherate | 1.5 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-Acetyl-L-leucine-[1-(1,3-dithiolan-2-yl)]pentylamide | 1.7 g | S1C(SCC1)C(CCCC)NC([C@@H](NC(C)=O)CC(C)C)=O | C16H30N2O2S2
